### PR TITLE
[Merged by Bors] - feat(FieldTheory/Minpoly): `minpoly K x` splits implies `minpoly K (x + algebraMap K L a)` splits

### PR DESCRIPTION
**Pull request by jjdishere**
We show that `minpoly K x` splits implies `minpoly K (x + algebraMap K L a)` splits.

---

- [x] depends on: #17080 
- [x] depends on: #17092 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Associated/Basic.lean [hunk 1]
```diff
@@ -290,6 +290,21 @@ theorem irreducible_mul_iff {a b : α} :
...
+
+open MulEquiv
+
+theorem Irreducible.map {x : α} (h : Irreducible x) : Irreducible (f x) :=
+  let f := MulEquivClass.toMulEquiv f
+  ⟨fun g ↦ h.1 (symm_apply_apply f x ▸ g.map f.symm), fun a b g ↦
+    .elim (h.2 _ _ (symm_apply_apply f x ▸ map_mul f.symm a b ▸ congrArg f.symm g))
+    (fun h ↦ .inl (apply_symm_apply f a ▸ h.map f)) (fun h ↦ .inr (apply_symm_apply f b ▸ h.map f))⟩
+
+theorem MulEquiv.irreducible_iff  (f : F) {a : α} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Associated/Basic.lean:303]:
```suggestion
theorem MulEquiv.irreducible_iff (f : F) {a : α} :
```

File: Mathlib/Algebra/Associated/Basic.lean [hunk 2]
```diff
@@ -290,6 +290,21 @@ theorem irreducible_mul_iff {a b : α} :
...
+    Irreducible (f a) ↔ Irreducible a :=
+  let f := MulEquivClass.toMulEquiv f
+  ⟨by simpa only [symm_apply_apply] using Irreducible.map f.symm (x := f a) , Irreducible.map f⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Associated/Basic.lean:306]:
```suggestion
  ⟨by simpa only [symm_apply_apply] using Irreducible.map f.symm (x := f a), Irreducible.map f⟩
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 3]
```diff
@@ -139,6 +139,27 @@ theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
...
+  | inl h0 =>
+    left
+    simp only [map_eq_zero] at h0 ⊢
+    exact h0.symm ▸ zero_comp
+  | inr h =>
+    right
+    intro g irr dvd
+    rw [map_comp, Polynomial.map_sub, map_X, map_C, dvd_comp_X_sub_C_iff] at dvd
+    have := h (irr.map (algEquivAevalXAddC _)) dvd
+    change degree (g.comp (X + C (i a))) = 1 at this
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/Splits.lean:154]: Why do you need `change` here? Please try to avoid it

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 4]
```diff
@@ -127,22 +127,26 @@ theorem eq_of_irreducible [Nontrivial B] {p : A[X]} (hp1 : Irreducible p)
...
+        degree_eq_natDegree ((minpoly.monic hx).comp_X_sub_C _).ne_zero, natDegree_comp,
+        natDegree_X_sub_C, mul_one]
+      rwa [degree_eq_natDegree (minpoly.ne_zero hx),
+        degree_eq_natDegree (qmo.comp_X_add_C _).ne_zero, natDegree_comp,
+        natDegree_X_add_C, mul_one] at H
+  · rw [minpoly.eq_zero hx, minpoly.eq_zero, zero_comp]
+    refine fun h ↦ hx ?_
+    simpa only [add_sub_cancel_right] using IsIntegral.sub h (isIntegral_algebraMap (x := a))
+
+theorem sub_algebraMap {B : Type*} [CommRing B] [Algebra A B] {x : B}
```
Comment (Ruben-VandeVelde) [inline Mathlib/FieldTheory/Minpoly/Field.lean:147]:
```suggestion
theorem sub_algebraMap {B : Type*} [CommRing B] [Algebra A B] (x : B)
```
for consistency

File: Mathlib/RingTheory/Adjoin/Field.lean [hunk 5]
```diff
@@ -97,6 +97,16 @@ theorem IsIntegral.mem_range_algebraMap_of_minpoly_splits [Algebra K L] [IsScala
     x ∈ (algebraMap K L).range :=
   int.mem_range_algHom_of_minpoly_splits h (IsScalarTower.toAlgHom R K L)
 
+theorem minpoly_split_add_algebraMap [Algebra K L] {x : L} (r : K)
+    (g : (minpoly K x).Splits (algebraMap K L)) :
+    (minpoly K (x + algebraMap K L r)).Splits (algebraMap K L) := by
+  simpa [minpoly.add_algebraMap] using g.comp_X_sub_C r
+
+theorem minpoly_split_sub_algebraMap [Algebra K L] {x : L} (r : K)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Adjoin/Field.lean:105]: `split` → `splits`, and the order doesn't make sense to me. Probably `splits_minpoly_{add,sub}_algebraMap`

Do you also want to add the `algebraMap K L r +/- x` variants?

File: Mathlib/Algebra/Associated/Basic.lean (hunk 1 above)
Comment (jjdishere) [reply Mathlib/Algebra/Associated/Basic.lean:303]: Thank you!

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/Algebra/Polynomial/Splits.lean:154]: I found the correct theorem `Polynomial.comp_eq_aeval`.

File: Mathlib/RingTheory/Adjoin/Field.lean (hunk 5 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Adjoin/Field.lean:105]: Thank you! I'll rename it to `minpoly_{add, sub}_algebraMap_splits` which is the order of the first four terms that can be read in the conclusion `(minpoly K (x + algebraMap K L r)).Splits (algebraMap K L)`.

File: Mathlib/RingTheory/Adjoin/Field.lean [hunk 6]
```diff
@@ -97,6 +97,21 @@ theorem IsIntegral.mem_range_algebraMap_of_minpoly_splits [Algebra K L] [IsScala
...
+    (g : (minpoly K x).Splits (algebraMap K L)) :
+    (minpoly K (x + algebraMap K L r)).Splits (algebraMap K L) := by
+  simpa [minpoly.add_algebraMap] using g.comp_X_sub_C r
+
+theorem minpoly_sub_algebraMap_splits [Algebra K L] {x : L} (r : K)
+    (g : (minpoly K x).Splits (algebraMap K L)) :
+    (minpoly K (x - algebraMap K L r)).Splits (algebraMap K L) := by
+  simpa only [sub_eq_add_neg, map_neg] using minpoly_add_algebraMap_splits (-r) g
+
+theorem minpoly_algebraMap_add_splits [Algebra K L] {x : L} (r : K)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Adjoin/Field.lean:110]: If you have this variant, then I feel we should also have the variant for `sub`. Does that make sense?

Comment (jjdishere) [reply Mathlib/RingTheory/Adjoin/Field.lean:110]: Yes, of course! However, adding a `sub` version is surprisingly harder than I thought, because one needs to add similar polynomial lemmas for `neg`, which is not in mathlib yet. This will be added in a separate PR #17369

**Comment by jjdishere** [comment]
For the natural lemma that is missing in this PR, which is `minpoly_algebraMap_sub_splits`, please see #17369 .

**Comment by jcommelin** [comment]
maintainer merge

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors merge
